Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-1.99320985315
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17].[H:8]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-4.5537804391800005
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10]>>[O:1]([C:2]([H:3])=[C:4]([H:5])[H:10])[H:7].[O:6]=[C:8][H:9],0.799613112049
[H:4].[O:1][O:2][C:3]#[C:5][C:6]([H:7])[H:8]>>[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],-4.14760033921
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:8]([H:9])=[C:10]([H:11])[H:12].[H:7]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.6763934218400003
[H:1][C:2][O:3][C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8],2.37661926265
[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[C:5]#[C:6][H:7].[O:1]=[C:2]([H:3])[O:4],5.02661516978
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.2819892557699974
[H:1][C:2][O:4][C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-5.15773233954
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9][H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:11]([H:12])([H:13])[H:14],8.247719598989999
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:5]([H:6])([O:7][H:8])[H:11].[H:1][C:2]/[C:3]([H:4])=[C:9](\[H:10])[O:12][H:13],3.02981381223
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11].[H:12],2.46130273791
[C:5]([H:6])#[C:7].[H:1][C:2]=[C:3]([H:4])[C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][H:9],-6.732584621490001
[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]=[O:3],-0.7418264381290001
[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]#[C:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],-2.57682252156
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:14]([H:15])([H:16])[H:17],4.45692391668
[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.99804821622
[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-7.782533490439999
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-2.00532399707
[C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.91320225586
[H:3].[O:1][C:2]#[C:4][C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.32041801634
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2](\[O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],6.46887279718
[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-7.35424992241
[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-2.57528890855
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11]>>[C:5]([H:6])#[C:7][O:8][C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4],-0.93459380747
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[O:9][H:10].[H:5],2.36633033182
[C:2]#[C:3][O:4][C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-5.45940065151
[C:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10].[C:4][O:5][H:6]>>[C:1]#[C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.17001566314
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:10][H:11],2.88712452132
